US04025644
In 50 ml of methanol, 4.4 g of methyl N-benzoylphenylalanyltyrosinate was dissolved. After addition of 23 ml of 1 N sodium hydroxide, the solution was stirred for 1 hour. The reaction mixture was neutralized with hydrochloric acid, concentrated and extracted with ethyl acetate. The extract was washed with water, dried and concentrated to dryness. The residue was crystallized from ethyl acetate to give 3.8 g of N-benzoylphenylalanyltyrosine with a mp. 191°-192° C., in a yield of 87%. Analysis, calculated for C25H24O5N2 : C, 69.43; H, 5.59; N, 6.48; found C, 68.98; H, 5.72; N, 6.37.

reactant | methyl N-benzoylphenylalanyltyrosinate | 4.4 g | C(C1=CC=CC=C1)(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CC1=CC=C(C=C1)O)C(=O)OC | C26H26N2O5
reactant | sodium hydroxide | 1 N, 23 ml | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 50 ml | CO | CH4O
product | N-benzoylphenylalanyltyrosine | 3.8 g, yield of 87% | C(C1=CC=CC=C1)(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CC1=CC=C(C=C1)O)C(=O)O | C25H24N2O5
